US08859591B2
Step C: (+/−)-3-(N-methyl-4-(1-(6-(4-phenyl-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)benzamido)propanoic acid
The title compound was prepared by a method analogous to that described in Step C of Example 1, using (+/−)-tert-butyl 3-(N-methyl-4-(1-(6-(4-phenyl-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)benzamido)propanoate. Column: Waters Atlantis dC18 4.6×50 mm, 5 μm. Modifier: TFA 0.05%. Gradient: 95% H20/5% MeCN linear to 5% H20/95% MeCN over 4.0 min, Hold at 5% H20/95% MeCN to 5.0 min. Flow: 2.0 mL/min. Retention time: 3.27 min. MS (M+1): 498.1.

reactant | (+/−)-tert-butyl 3-(N-methyl-4-(1-(6-(4-phenyl-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)benzamido)propanoate | CN(C(C1=CC=C(C=C1)C(CCC)NC=1C=NC(=CC1)N1N=CC(=C1)C1=CC=CC=C1)=O)CCC(=O)OC(C)(C)C | C33H39N5O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | MeCN | CC#N | C2H3N
product | (+/−)-3-(N-methyl-4-(1-(6-(4-phenyl-1H-pyrazol-1-yl)pyridin-3-ylamino)butyl)benzamido)propanoic acid | CN(C(C1=CC=C(C=C1)C(CCC)NC=1C=NC(=CC1)N1N=CC(=C1)C1=CC=CC=C1)=O)CCC(=O)O | C29H31N5O3
